US04382081
A solution of 860 ml (3.74 mole) of 25% of NaOCH3 in CH3OH and an equal volume of CH3OH is warmed to near reflux. Dimethyl malonate (425 ml, 3.74 mole) is added, followed by 410 ml (3.74 mole) of 1-bromo-2-methyl propane. Heating back to reflux gives a clear yellow solution. Refluxing under N2 for 18 hours gives a slurry. While at reflux a total of 425 ml of 50% NaOH is added plus enough water to dissolve the precipitated salts, for a total reaction volume of 5 liters. The basic (pH=14) mixture is refluxed until little cloudiness is observed on dilution of a sample with water. Distillation until T≅90°, cooling in ice, acidification with 25% H2SO4 to pH=1, and extraction with 4 liters of ethyl acetate gives on drying and evaporation, a slurry. Benzene is added and the slurry evaporated to a solid. Trituration with hexane, filtering and drying in air gives 402 g, m.p. 101°-105° (67%). An additional 25 g, m.p. 92°-101°, were obtained on further extraction with ethyl acetate and rework of the mother liquors, for a total of 427 g (71%). A 410 g (2.56 mole) sample of isobutyl malonic acid is dissolved in 3.5 liters of water. This yellow solution is cooled in ice and treated with 288 g (2.56 mole) of 40% aqueous dimethylamine. Stirring with cooling is continued, and when the internal temperature equals 10° C., 210 g (2.56 mole) of 37% formalin is added. The resulting clear yellow solution is stored at 5° C. for 21/2 days, whereupon it is a solid mass of white solid. This mixture is carefully brought to near reflux (foaming) with stirring, and held there until the solution is clear and CO2 is no longer evolved to a significant extent (heated 2 hours after complete solution). The mixture is cooled in ice and acidified strongly with 350 ml of 7.2 M H2SO4 (pH=1). Extraction with 2 liters of hexane and drying (Na2SO4) gives 206 g of isobutyl acrylic acid. Extraction with another 2 liters of hexane gives 6 g, for a total of 212 g (65%) of the unsaturated acid.

reactant | NaOCH3 | 3.74 mole, 860 ml | O([Na])C
reactant | Dimethyl malonate | 3.74 mole, 425 ml | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 1-bromo-2-methyl propane | 3.74 mole, 410 ml | BrCC(C)C | C4H9Br
reactant | NaOH | 425 ml | [OH-].[Na+]
reactant | isobutyl malonic acid | C(C(C)C)C(C(=O)O)C(=O)O | C7H12O4
reactant | dimethylamine | 2.56 mole, 288 g | CNC | C2H7N
reactant | formalin | 2.56 mole, 210 g | C=O | CH2O
reactant | CO2 | C(=O)=O | CO2
reactant | H2SO4 | 7.2 M, 350 ml, pH=1 | OS(=O)(=O)O | H2O4S
solvent | CH3OH | CO | CH4O
solvent | water | 3.5 liters | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | isobutyl acrylic acid | 206 g | C(C(C)C)C(C(=O)O)=C | C7H12O2
